US08809567B2
Into a two-necked flask were placed 4-tert-butylcyclohexanone (74.1 mg, 0.480 mmol), and toluene (5.0 ml) as a solvent, and the mixture was subjected to heating under reflux conditions under an argon atmosphere. After the start of the refluxing, allyltrimethylsilane (82.3 mg, 0.720 mmol) was added, and a solution (0.1 M) of triflic imide (1.35 mg, 4.80 μmol) in toluene was added dropwise. After 5 min, triethylamine (0.486 mg, 4.80 μmol) was added, and the mixture was reacted for 10 min. Thereafter, cooled aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with hexane and dried over sodium sulfate. The solvent was evaporated under reduced pressure and purified by column chromatography to give the object product 4-tert-butyl-1-trimethylsilyloxy-1-cyclohexene (yield 88%).

reactant | 4-tert-butylcyclohexanone | 0.480 mmol, 74.1 mg | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | allyltrimethylsilane | 0.720 mmol, 82.3 mg | C(C=C)[Si](C)(C)C | C6H14Si
reactant | triethylamine | 4.80 μmol, 0.486 mg | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-tert-butyl-1-trimethylsilyloxy-1-cyclohexene | yield 88% | C(C)(C)(C)C1CC=C(CC1)O[Si](C)(C)C | C13H26OSi
